US04666902
6-(3,4-Dimethoxyphenyl)-5-hydroxymethyl-2-methyl-2,3,4,5-tetrahydropyridazin-3-one
7.5 g (0.03 mol) of 4-(3,4-dimethoxyphenyl)-carbonyl-γ-butyrolactone and 2 ml (0.03 mol) of methylhydrazine are stirred in 50 ml of ethanol at room temperature for 1 hour and then at 90° C. for 17 hours. After the mixture has been cooled, the precipitated product is filtered off with suction and dried.

reactant | 4-(3,4-dimethoxyphenyl)-carbonyl-γ-butyrolactone | 0.03 mol, 7.5 g | COC=1C=C(C=CC1OC)C1CC(C(=O)O1)=C=O | C13H12O5
reactant | methylhydrazine | 0.03 mol, 2 ml | CNN | CH6N2
reactant | ethanol | 50 ml | C(C)O | C2H6O
product | 6-(3,4-Dimethoxyphenyl)-5-hydroxymethyl-2-methyl-2,3,4,5-tetrahydropyridazin-3-one | COC=1C=C(C=CC1OC)C=1C(CC(N(N1)C)=O)CO | C14H18N2O4
